US04002605
A solution of sodium 2-naphtholate is prepared by mixing 210 ml. of water, 59.7 ml. of sodium hydroxide solution (24%), 41.0 g. (0.285 mole) of 2-naphthol. The mixture is stirred until the solid dissolves and then diluted with water to a volume of 567 ml. at 12°-15° C.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | 2-naphthol | 0.285 mole | C1=C(C=CC2=CC=CC=C12)O | C10H8O
solvent | water | O | H2O
product | sodium 2-naphtholate | C1=C(C=CC2=CC=CC=C12)[O-].[Na+] | InChI=1S/C10H8O.Na/c11-10-6-5-8-3-1-2-4-9(8)7-10;/h1-7,11H;/q;+1/p-1
